* A dual opamp ngspice model
* file name: AD8066-dual.lib
.subckt AD8066d 1out 1in- 1in+ vcc- vcc- 2in+ 2in- 2out vcc+ vcc+
.include D:\Nextcloud\Projects\_Electonics\KiCAD\SPICE\AD8066.lib
XU3A 1in+ 1in- vcc+ vcc- 1out AD8066
XU3B 2in+ 2in- vcc+ vcc- 2out AD8066
.ends